US04617314
2-Methyl-5-methylsulfonyl-2,3-dihydrobenzofuran-7-carboxylic acid, 5.0 g, is dissolved in a mixed solvent of 40 ml of dimethylformamide and 20 ml of acetone, 6.5 ml of triethylamine is added, and the whole is stirred. At room temperature, 2.3 g of ethyl chlorocarbonate is added and the solution is stirred for one hour. Thereafter, 3.0 g of 1-ethyl-2-aminomethylpyrrolidine is added, and the reactant is stirred for one and a half hours and allowed to stand for 15 hours. After excess triethylamine and acetone are distilled off under reduced pressure, the residue obtained is poured into 300-400 ml of water and extracted three times with ethyl acetate. The extract layer is washed with aqueous sodium bicarbonate solution and water and dried. The ethyl acetate is distilled off under diminished pressure and the resulting residue is again dissolved in chloroform and hydrochloric acid is blown into the solution. Excess hydrochloric acid gas and chloroform are distilled off under reduced pressure and the resulting residue is dissolved into 35-40 ml of isopropanol and filtered. To the filtrate solution is added 110-120 ml of ethyl acetate and the system is cooled with ice to give crystals of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-methylsulfonyl-2,3-dihydrobenzofuran-7-carboxamide hydrochloride, m.p. 186°-189° C.

reactant | 2-Methyl-5-methylsulfonyl-2,3-dihydrobenzofuran-7-carboxylic acid | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(=O)(=O)C | C11H12O5S
reactant | ethyl chlorocarbonate | 2.3 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-ethyl-2-aminomethylpyrrolidine | 3.0 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | water | 300-400 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-methylsulfonyl-2,3-dihydrobenzofuran-7-carboxamide hydrochloride | Cl.C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(=O)(=O)C | InChI=1S/C18H26N2O4S.ClH/c1-4-20-7-5-6-14(20)11-19-18(21)16-10-15(25(3,22)23)9-13-8-12(2)24-17(13)16;/h9-10,12,14H,4-8,11H2,1-3H3,(H,19,21);1H
